US07713994B2
6-tert-butylisoquinoline-1,3(2H,4H)-dione
An amount of 1.5 g (6.35 mmol) of 4-tert-butyl-2-(carboxymethyl)benzoic acid and urea (763 mg, 12.7 mmol) were heated neat at 145-148° C. for 1.5 hours. The mixture is cooled to room temperature and 200 mL of chloroform is added and washed 3× with water, dried over sodium sulfate and evaporated. The crude product is purified by column chromatography 4% methanol methylene chloride to give 580 mg (41% yield) of the product as a brown solid. MS (ESI) m/z 218.2 (M+1).

reactant | 4-tert-butyl-2-(carboxymethyl)benzoic acid | 6.35 mmol, 1.5 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)CC(=O)O | C13H16O4
reactant | urea | 12.7 mmol, 763 mg | NC(=O)N | CH4N2O
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-tert-butylisoquinoline-1,3(2H,4H)-dione | 580 mg, 41% yield | C(C)(C)(C)C=1C=C2CC(NC(C2=CC1)=O)=O | C13H15NO2
